US07994185B2
Step A: N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using NBS (0.41 g, 2.29 mmol), N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide (1.0 g, 2.18 mmol) and 4-morpholinecarbothioamide (0.35 g, 2.40 mmol) the title compound was obtained as a yellow solid (1.27 g; 95% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.74 (s, 1H), 8.31 (d, J=5.5 Hz, 1H), 7.28-7.75 (m, 8H), 6.20 (d, J=5.5 Hz, 1H), 3.71 (t, J=4.7 Hz, 4H), 3.54 (t, J=4.6 Hz, 4H).

reactant | NBS | 2.29 mmol, 0.41 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide | 2.18 mmol, 1.0 g | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C18H11Cl2F2N3O3S
reactant | 4-morpholinecarbothioamide | 2.40 mmol, 0.35 g | N1(CCOCC1)C(N)=S | C5H10N2OS
product | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 95% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H17Cl2F2N5O3S2
